US03966792
Dimethyl 4-cyclopentyl-2-oxo-butylphosphonate
125 g. of dimethyl methylphosphonate were dissolved in 720 ml. of tetrahydrofuran and the solution cooled to -65°C. To this solution a solution of butyllithium [prepared from 150 g. of butyl bromide and 14.5 g. of lithium] in 550 ml. of diethyl ether was added dropwise. To the mixture a solution of 52.5 g. of ethyl 3-cyclopentylpropionate in 280 ml. of tetrahydrofuran was added drop-wise and the reaction mixture was stirred at the same temperature for 2 hours and afterwards at 0°C. overnight. The reaction mixture was then neutralised with acetic acid, concentrated under reduced pressure and the resulting residue after the addition of water was extracted with diethyl ether. The ethereal extract was dried over sodium sulphate, the solvent distilled off and the residue distilled under reduced pressure to obtain 47 g. (yield 61.2%) of the title compound as a colourless oil, b.p. 142°- 144°C./0.4 - 0.5 mm.Hg. NMR spectrum (tetrachloromethane): δ = 3.84 (6H, doublet), 3.19 (2H, doublet), 2.42 (2H, triplet), 2.0 - 1.09 (11H, multiplet).

reactant | dimethyl methylphosphonate | CP(OC)(OC)=O | C3H9O3P
reactant | butyllithium | 150 g | C(CCC)[Li]
reactant | ethyl 3-cyclopentylpropionate | C1(CCCC1)CCC(=O)OCC | C10H18O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Dimethyl 4-cyclopentyl-2-oxo-butylphosphonate | yield 61.2% | C1(CCCC1)CCC(CP(OC)(OC)=O)=O | C11H21O4P
